US07288557B2
To a solution of 116 mg (0.5 mmol) 1-(4-hydroxy-phenyl)-4-[1,2,3]triazol-1-yl-butan-1-one in 10 ml 2-butanone 98 mg (0.3 mmol) cesium carbonate was added and the mixture was stirred at 60° C. for 30 minutes. Then 152 mg (0.5 mmol) 4-chloromethyl-2-[(E)-2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole and 83 mg (0.5 mmol) potassium iodide were added and the mixture was stirred at 60° C. overnight. After removal of all volatiles in vacuo the residue was purified by column chromatography on silica (ethyl acetate) to give 4-[1,2,3]triazol-1-yl-1-(4-{2-[(E)-2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butan-1-one. Yield: 200 mg (81%) white solid.

reactant | 1-(4-hydroxy-phenyl)-4-[1,2,3]triazol-1-yl-butan-1-one | 0.5 mmol, 116 mg | OC1=CC=C(C=C1)C(CCCN1N=NC=C1)=O | C12H13N3O2
reactant | 2-butanone | 0.3 mmol, 10 ml, 98 mg | CC(CC)=O | C4H8O
reactant | 4-chloromethyl-2-[(E)-2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole | 0.5 mmol, 152 mg | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO2
reactant | potassium iodide | 0.5 mmol, 83 mg | [I-].[K+]
product | 4-[1,2,3]triazol-1-yl-1-(4-{2-[(E)-2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butan-1-one | N1(N=NC=C1)CCCC(=O)C1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)OC(F)(F)F | C25H21F3N4O4
